US04055561
2-[α-(4-Biphenylyl)ethylimino]azacyclotridecane hydrochloride
To 5.0 g (25 m mole) of 2-azatridecanone in 100 ml of benzene is added dropwise 3.9 g (25 m mole) of phosphorous oxychloride and the mixture stirred at room temperature for a period of 4 hours. α-methyl-ρ-phenylbenzylamine hydrochloride, 5.3 g (23 m mole), is added and stirred at room temperature for 1 hour and refluxed for an additional 4 hours. Hydrochloric acid, 2N, is added and the benzene layer separated, dried over sodium sulfate, and evaporated to dryness. The crude product is crystallized from acetone, M.P. 135°-142° C.

reactant | phosphorous oxychloride | 3.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | α-methyl-ρ-phenylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)C1=CC=CC=C1)N
reactant | Hydrochloric acid | Cl | ClH
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-[α-(4-Biphenylyl)ethylimino]azacyclotridecane hydrochloride | Cl.C1(=CC=C(C=C1)C(C)N=C1NCCCCCCCCCCC1)C1=CC=CC=C1 | InChI=1S/C26H36N2.ClH/c1-22(23-17-19-25(20-18-23)24-14-10-9-11-15-24)28-26-16-12-7-5-3-2-4-6-8-13-21-27-26;/h9-11,14-15,17-20,22H,2-8,12-13,16,21H2,1H3,(H,27,28);1H
